US05270324
Step 1: 3-((3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)hydroxymethyl)benzoic acid
To the dilithium salt (5.92 mmol) obtained from 3-bromobenzoic acid (W. E. Parham and Y. A. Sayed, J. Org. Chem., 39, 2051 (1974)), a solution of 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde (1.503 g, 5.12 mmol) (U.S. Pat. No. 4,851,409, Jul. 25, 1989, Example 24, Step 1) in THF (25 mL) was added dropwise at -78° C. The mixture was stirred for 2 h at -78° C. and was quenched with 25% aqueous NH4OAc. The mixture was acidified to pH 5 with AcOH and extracted with EtOAc. The organic fractions were dried over Na2SO4 and evaporated. Flash chromatography of the residue on silica using EtOAc:toluene:AcOH 30:70:1 yielded the title compound.

reactant | dilithium | 5.92 mmol | [Li][Li] | 2Li
reactant | 3-bromobenzoic acid | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 3-(2-(7-chloro-2-quinolinyl)ethenyl)benzaldehyde | 5.12 mmol, 1.503 g | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=O)C=CC1 | C18H12ClNO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 3-((3-(2-(7-chloro-2-quinolinyl)ethenyl)phenyl)hydroxymethyl)benzoic acid | ClC1=CC=C2C=CC(=NC2=C1)C=CC=1C=C(C=CC1)C(C=1C=C(C(=O)O)C=CC1)O | C25H18ClNO3
